US07842685B2
To a solution at 0° C. of 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzaldehyde (2.00 g, 5.34 mmol) in THF (50 mL) and MeOH (25 mL) was added sodium borohydride (0.188 mL, 5.34 mmol). The reaction mixture was allowed to warm up to ambient temperature. The crude reaction mixture, after 1 h, was concentrated in vacuo and purified by silica gel chromatography to afford (3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methanol. MS (ESI) m/z: calculated: 376.1: Observed: 377.0 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)benzaldehyde | 5.34 mmol, 2.00 g | FC=1C=C(C=O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2OS
reactant | sodium borohydride | 5.34 mmol, 0.188 mL | [BH4-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | MeOH | 25 mL | CO | CH4O
product | (3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridine-2-yl)phenyl)methanol | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)CO | C22H17FN2OS
